US07524849B2
To a solution of 6-chloro-2-(1H-imidazol-1-yl)-N-(2,2,2-trifluoroethyl)-5-(2,4,6-trifluorophenyl)pyrimidin-4-amine (20 mg, 0.05 mmol) and 3-dimethylamino-1-propanol (103 mg, 1.0 mmol) in 3 mL of dimethylsulfoxide at room temperature is added sodium hydride (60% in mineral oil, 40 mg, 1.0 mmol). The mixture is stirred at 60° C. for 2 h, cooled to room temperature, and partitioned between ethyl acetate and saturated sodium chloride. The organic layer is washed with saturated sodium chloride (×3), dried over magnesium sulfate, and concentrated. The residue is chromatographed over silica gel, eluting with a gradient of ethyl acetate to 50% methyl alcohol in ethyl acetate. Concentration provides 6-chloro-5-{4-[3-(dimethylamino)propoxy]-2,6-difluorophenyl}-2-(1H-imidazol-1-yl)-N-(2,2,2-trifluoroethyl)pyrimidin-4-amine as a light tan solid (16 mg, mp 47-49° C.). MS: m/z 491.1 (M+H).

reactant | 6-chloro-2-(1H-imidazol-1-yl)-N-(2,2,2-trifluoroethyl)-5-(2,4,6-trifluorophenyl)pyrimidin-4-amine | 0.05 mmol, 20 mg | ClC1=C(C(=NC(=N1)N1C=NC=C1)NCC(F)(F)F)C1=C(C=C(C=C1F)F)F | C15H8ClF6N5
reactant | 3-dimethylamino-1-propanol | 1.0 mmol, 103 mg | CN(CCCO)C | C5H13NO
reactant | sodium hydride | 1.0 mmol, 40 mg | [H-].[Na+]
solvent | dimethylsulfoxide | 3 mL | CS(=O)C | C2H6OS
product | 6-chloro-5-{4-[3-(dimethylamino)propoxy]-2,6-difluorophenyl}-2-(1H-imidazol-1-yl)-N-(2,2,2-trifluoroethyl)pyrimidin-4-amine | 16 mg | ClC1=C(C(=NC(=N1)N1C=NC=C1)NCC(F)(F)F)C1=C(C=C(C=C1F)OCCCN(C)C)F | C20H20ClF5N6O
